US04721718
A mixture of 9.4 g (0.1 mole) of 2-aminopyridine and 19.2 g (0.11 mole) of 45% aqueous chloroacetaldehyde was stirred, during which spontaneous heating occurred. When the exothermic reaction subsided, the mixture was dissolved in methanol containing 15 ml of concentrated aqueous ammonia and extracted with dichloromethane. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo to an oil. Distillation at 80-83° and 0.2 mm Hg pressure yielded 10.5 g of imidazo[1,2-a]pyridine as an oil. A solution of 9.5 g (80.5 mmole) of imidazo[1,2-a]pyridine in 60 ml of dimethylformamide was heated to 90°. Phosphorus oxychloride (9.27 ml, ca. 100 mmole) was added dropwise over a twenty minute period, and the mixture was stirred at 90° for two hours and at room temperature for an additional twenty hours. The mixture was diluted with 60 ml of water and made basic with 30% aqueous sodium hydroxide. The resultant solid was collected by filtration, washed with water, and air dried to yield 1.8 g of 3-imidazo[1,2-a]pyridinecarboxaldehyde as the analytically pure p hydrate. [Calcd. for C8H6N2O.H2O: C, 58.53; H, 3.68; N, 17.06. Found: C, 58.77; H, 3.68; N, 17.48.]To a solution of 1.6 g (10 mmole) of 3-imidazo[1,2-a]-pyridinecarboxaldehyde in 15 ml of methanol was added 204 mg (5.4 mmole) of sodium borohydride. After one hour the mixture was acidified with concentrated hydrochloric acid and then concentrated in vacuo. Recrystallization of the residue from ethanol yielded 707 mg of 3-hydroxymethylimidazo[1,2-a]pyridine as the hydrochloride salt. A 500 mg (2.7 mmole) portion of the hydroxymethyl compound was dissolved in 3.0 ml of concentrated hydrochloric acid and heated at 80° for one hour. The mixture was concentrated in vacuo and the residue was recrystallized from isopropyl alcohol to yield 465 mg of 3-chloromethylimidazo[1,2-a]pyridine as the hydrochloride salt. A mixture of 390 mg (1.92 mmole) of the chloromethyl compound and 288 mg (1.92 mmole) of 2-mercaptobenzimidazole in 7 ml of isopropyl alcohol was stirred for one hour. The precipitate that formed was collected and partitioned between 5% aqueous sodium hydroxide and dichloromethane. The organic layer was washed with water, dried over magnesium sulfate, filtered and concentrated in vacuo. Trituration of the residue with diethyl ether yielded the title compound as an analytically pure solid. Structure assignment was supported by the nmr spectrum and by elemental analysis.

reactant | 2-aminopyridine | 0.1 mole, 9.4 g | NC1=NC=CC=C1 | C5H6N2
reactant | chloroacetaldehyde | 0.11 mole, 19.2 g | ClCC=O | C2H3ClO
solvent | methanol | 15 ml | CO | CH4O
solvent | ammonia | N | H3N
product | imidazo[1,2-a]pyridine | 10.5 g | N=1C=CN2C1C=CC=C2 | C7H6N2
